US07153874B2
4-Iodo-2-methyl-1H-imidazole (200 mg, 1.0 mmol), 4-fluorophenylboronic acid (215 mg, 1.6 mmol), copper(II)acetate (210 mg, 1.2 mmol) and Et3N (0.16 ml, 1.2 mmol) were suspended in 10 ml THF and oxygen was bubbled through the reaction mixture for 40 min. The reaction mixture was stirred for 48 hours at RT and then filtrated over dicalit. The filtrate was concentrated and then purified by flash chromatography to yield 1-(4-fluoro-phenyl)-4-iodo-2-methyl-1H-imidazole (120 mg, 0.40 mmol, 41%).

reactant | 4-Iodo-2-methyl-1H-imidazole | 1.0 mmol, 200 mg | IC=1N=C(NC1)C | C4H5IN2
reactant | 4-fluorophenylboronic acid | 1.6 mmol, 215 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | Et3N | 1.2 mmol, 0.16 ml | CCN(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | copper(II)acetate | 1.2 mmol, 210 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-(4-fluoro-phenyl)-4-iodo-2-methyl-1H-imidazole | 0.40 mmol, 120 mg, 41% | FC1=CC=C(C=C1)N1C(=NC(=C1)I)C | C10H8FIN2
